US08859602B2
f) 4-Cyano-1H-imidazole-2-carboxylic acid [4-(4-cyano-1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide
A solution of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(4-cyano-1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide (193 mg, 0.318 mmol, as prepared in the previous step) in CH2Cl2 (10 mL) was treated with TFA (2 mL) and stirred at RT for 3 h. EtOH (5 mL) was added, and the mixture was concentrated to dryness. The residue was taken up in CH2Cl2 and carefully washed with satd aq NaHCO3 (1×). The aqueous layer was extracted with CH2Cl2 (1×), and the combined aqueous layers were dried over MgSO4 and concentrated in vacuo. Silica gel chromatography of the residue on a 20-g Isolute SPE column (FlashMaster system) with 25-50% EtOAc-hexane afforded the title compound (50.4 mg, 33%) as a white solid. 1H-NMR (CD3OD; 400 MHz): δ 8.39 (d, 1H, J=8.8 Hz), 8.01 (s, 1H), 7.53 (dd, 1H, J=8.8, 2.0 Hz), 7.42 (d, 1H, J=2.0 Hz), 5.85-5.80 (m, 1H), 3.59-3.46 (m, 2H), 2.81-2.69 (m, 2H), 2.62-2.52 (m, 2H), 2.39-2.32 (m, 2H), 2.17-2.10 (m, 2H), 1.68-1.58 (m, 4H), 1.13 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C25H27N5O3S, 478.2 (M+H). found 478.2.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(4-cyano-1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | C(#N)C1(CCS(CC1)(=O)=O)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCC(CC1)(C)C | C31H41N5O4SSi
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | EtOH | 5 mL | CCO | C2H6O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyano-1H-imidazole-2-carboxylic acid [4-(4-cyano-1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | 50.4 mg, 33% | C(#N)C1(CCS(CC1)(=O)=O)C1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)C1=CCC(CC1)(C)C | C25H27N5O3S
